US08686022B2
(1) 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid-(5-isobutyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
Tert-butyl 4-[2-(5-isobutyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate is used instead of tert-butyl [5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-phenyl]-carbamate. The crude product is divided between dichloromethane and saturated aqueous sodium hydrogen carbonate solution. The aqueous phase is extracted with dichloromethane. The combined organic phases are dried on magnesium sulphate and the solvents are eliminated in vacuo. The product thus obtained is further reacted directly.

reactant | Tert-butyl 4-[2-(5-isobutyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate | C(C(C)C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C32H45N5O6S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid-(5-isobutyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C(C)C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCNCC1)C)OC)NS(=O)(=O)C | C27H37N5O4S
